US07612211B2
A. 2-[2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazol-5-yl]-benzoic acid methyl ester
A mixture of 5-bromo-2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazole (0.500 g, 1.35 mmol), (2-methoxycarbonylphenyl)boronic acid (0.290 g, 1.62 mmol), sodium carbonate (0.857 g, 8.10 mmol), and 1,1′-[bis(di-tert-butylphosphino)ferrocene]-palladium dichloride (0.088 g, 0.135 mmol) in DME (10 mL) and H2O (2.5 mL) was heated at 80° C. for 12 hours. The reaction mixture was concentrated under reduced pressure, and the residue was purified by chromatography (silica, hexanes: EtOAc, 1:1) to afford the product as a yellow oil (0.494 g, 86%).

reactant | 5-bromo-2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazole | 1.35 mmol, 0.500 g | BrC1=CC2=C(NC(=N2)COC2=CC=C(C=C2)C(F)(F)F)C=C1 | C15H10BrF3N2O
reactant | (2-methoxycarbonylphenyl)boronic acid | 1.62 mmol, 0.290 g | COC(=O)C1=C(C=CC=C1)B(O)O | C8H9BO4
reactant | sodium carbonate | 8.10 mmol, 0.857 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | 10 mL | COCCOC | C4H10O2
solvent | H2O | 2.5 mL | O | H2O
product | 2-[2-(4-trifluoromethyl-phenoxymethyl)-1H-benzoimidazol-5-yl]-benzoic acid methyl ester | 0.494 g, 86% | COC(C1=C(C=CC=C1)C1=CC2=C(NC(=N2)COC2=CC=C(C=C2)C(F)(F)F)C=C1)=O | C23H17F3N2O3
